US06440995B1
4-Chloro-2-(3,4-dichloro-phenyl)-quinoline
The title compound, m. p. 138-140° C., MS: m/e=308 (M+), was prepared from 4-chloro-quinoline and 3,4-dichloroiodobenzene.

reactant | 4-chloro-quinoline | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 3,4-dichloroiodobenzene | ClC=1C=C(C=CC1Cl)I | C6H3Cl2I
product | 4-Chloro-2-(3,4-dichloro-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)Cl)Cl | C15H8Cl3N
